US09255097B2
Preparation 13A: 2,6-dichloro-3-ethyl-3H-pyrimidin-4-one
A solution of 2,6-dichloro-pyrimidin-4-ol (1.0 g, 6.1 mmol) and K2CO3 (1.1 g, 7.9 mmol) in DMF (10 mL) was stirred at RT for 15 min. The reaction mixture was cooled to 0° C., and iodoethane (1.1 mL, 6.7 mmol) was added dropwise. After stirring overnight at RT, the reaction mixture was diluted with EA, washed with brine, dried (Na2SO4) and concentrated in vacuo. The residue was purified by silica chromatography (20:1, EA:PE) to give 330 mg (28%) of the title compound. 1H NMR (400 MHz, CDCl3): δ 1.37 (t, J=7.6 Hz, 3H), 4.76 (q, J=6.8 Hz, 2H), 6.67 (s, 1H). [M+H] Calc'd for C6H6Cl2N2O, 193, 195, 197. Found, 193, 195, 197.

reactant | 2,6-dichloro-pyrimidin-4-ol | 6.1 mmol, 1.0 g | ClC1=NC(=CC(=N1)O)Cl | C4H2Cl2N2O
reactant | K2CO3 | 7.9 mmol, 1.1 g | C(=O)([O-])[O-].[K+].[K+]
reactant | iodoethane | 6.7 mmol, 1.1 mL | ICC | C2H5I
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | EA | CC(OCC)=O | C4H8O2
product | 2,6-dichloro-3-ethyl-3H-pyrimidin-4-one | 330 mg, 28% | ClC1=NC(=CC(N1CC)=O)Cl | C6H6Cl2N2O
